US05856503
The crude methyl (1RS,2RS)-2-(cyclopropyl-methylcarbamoyl)-cyclopropanecarboxylate is dissolved in 9 ml of THF and added dropwise to a boiling suspension of 1.4 g of lithium aluminium hydride in 40 ml of THF. The reaction mixture is boiled for a further 24 hrs., then cooled to 0° C. and treated with 9 ml of water, dried, filtered and concentrated. The oil obtained is dissolved in methylene chloride, dried and concentrated to give 4.2 g of (1RS,2RS)-[2-[(cylcopropyl-methyl-amino)-methyl]-cyclopropyl]methanol, MS: m/e 156 (M+H+).

reactant | methyl (1RS,2RS)-2-(cyclopropyl-methylcarbamoyl)-cyclopropanecarboxylate | C1(CC1)N(C(=O)C1C(C1)C(=O)OC)C | C10H15NO3
reactant | lithium aluminium hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 9 ml | O | H2O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1RS,2RS)-[2-[(cylcopropyl-methyl-amino)-methyl]-cyclopropyl]methanol | 4.2 g | C1(CC1)N(C)CC1C(C1)CO | C9H17NO
